US06605620B1
Synthesis of 4-[N-Methyl-N-[[2-(3,5-dimethoxy-4-hydroxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,5-dimethoxy-4-hydroxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride
To an ice-cooled solution of 4-[N-methyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (100 mg) in dichloromethane (5 mL) was added iodotrimethylsilane (173 μL). The mixture was stirred at 0° C. for 2 hours and then at room temperature overnight. A small amount of water, ethyl acetate and saturated aqueous sodium hydrogencarbonate were added to the mixture at 0° C. and the organic layer was separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated. The residue was applied to a preparative TLC using chloroform-ammonia saturated methanol (15:1) to give a free base of the title compound which was converted to a tetrahydrochloride by the conventional method.

reactant | 4-[N-methyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 100 mg | CN(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C36H44N4O6
reactant | iodotrimethylsilane | 173 μL | I[Si](C)(C)C | C3H9ISi
reactant | water | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[N-Methyl-N-[[2-(3,5-dimethoxy-4-hydroxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,5-dimethoxy-4-hydroxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride | Cl.Cl.Cl.Cl.CN(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)O)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)O)OC | InChI=1S/C34H40N4O6.4ClH/c1-37(20-22-6-10-35-27(14-22)24-16-29(41-2)33(39)30(17-24)42-3)26-8-12-38(13-9-26)21-23-7-11-36-28(15-23)25-18-31(43-4)34(40)32(19-25)44-5;;;;/h6-7,10-11,14-19,26,39-40H,8-9,12-13,20-21H2,1-5H3;4*1H
